US09403846B2
Step 6. Synthesis of rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(methoxymethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C39)
rel-(3R,3aR,5R)-5-Cyclopropyl-3-(methoxymethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C38) was converted to the product using the method described for synthesis of rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C19) in Example 2. The product was obtained as an oil. Yield: 0.85 g, 2.6 mmol, 55%. LCMS m/z 326.2 [M+H+].

reactant | rel-(3R,3aR,5R)-5-Cyclopropyl-3-(methoxymethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2COC)CO1 | C11H17NO3
reactant | rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=C(C=C1)F)F | C15H17F2NO2
product | rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(methoxymethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NO[C@H]2COC)(CO1)C1=C(C=C(C=C1)F)F | C17H21F2NO3
